US04555503
The reductive alkylation of N-[N2 (1(S)-carboxy-3-phenylpropyl)-L-lysyl]-L-proline and ethyl glyoxylate was carried out in accordance with the procedures described in Example 1 to give N-[N2 -(1(S)-carboxy-3-phenylpropyl)-N6 -ethoxycarbonylmethyl-L-lysyl]-L-proline. The product was then treated with ammonia at 100° C. followed by absorption on strong acid ion exchange resin and eluting with 2% pyridine in water. Freeze drying of product-rich cuts afforded N-[N2 -(1(S)-carboxy-3-phenylpropyl)-N6 -carbamoylmethyl-L-lysyl]-L-proline. The nmr spectrum was consistent with the structure.

reactant | N-[N2 (1(S)-carboxy-3-phenylpropyl)-L-lysyl]-L-proline | C(=O)(O)[C@H](CCC1=CC=CC=C1)N[C@@H](CCCCN)C(=O)N1[C@H](C(=O)O)CCC1 | C21H31N3O5
reactant | ethyl glyoxylate | C(C=O)(=O)OCC | C4H6O3
product | N-[N2 -(1(S)-carboxy-3-phenylpropyl)-N6 -ethoxycarbonylmethyl-L-lysyl]-L-proline | C(=O)(O)[C@H](CCC1=CC=CC=C1)N[C@@H](CCCCNCC(=O)OCC)C(=O)N1[C@H](C(=O)O)CCC1 | C25H37N3O7
